US05273999
Preparation of 5-[(5-Bromopentyl)oxy]-2-benzofurancarboxylic Acid Ethyl Ester
Starting with 2.41 g (11.69 mmol) of 5-hydroxy-2-benzofuran-carboxylic acid ethyl ester, and 8.06 (35.06 mmol) of 1,5-dibromopentane, the title compound (3.03 g; 73%) was obtained as a white solid, mp 31° C., using the procedure of example 21.

reactant | 5-hydroxy-2-benzofuran-carboxylic acid ethyl ester | 11.69 mmol, 2.41 g | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)O | C11H10O4
reactant | 1,5-dibromopentane | BrCCCCCBr | C5H10Br2
product | 5-[(5-Bromopentyl)oxy]-2-benzofurancarboxylic Acid Ethyl Ester | 3.03 g, 73% | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)OCCCCCBr | C16H19BrO4
